US04198425
Using 25.83 g of 6-(p-benzyloxyphenyl)-3-hexen-2-one, 11.3 ml of ethyl bromoacetate and 6.63 g of zinc, the reaction and the purification of the product were carried out according to the method described in Example I (a) affording 29.6 g of ethyl 3-hydorxy-3-methyl-7-(p-benzyloxyphenyl)-4-heptenoate.

reactant | 6-(p-benzyloxyphenyl)-3-hexen-2-one | 25.83 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCC=CC(C)=O | C19H20O2
reactant | ethyl bromoacetate | 11.3 ml | BrCC(=O)OCC | C4H7BrO2
catalyst | zinc | 6.63 g | [Zn] | Zn
product | ethyl 3-hydorxy-3-methyl-7-(p-benzyloxyphenyl)-4-heptenoate | 29.6 g | OC(CC(=O)OCC)(C=CCCC1=CC=C(C=C1)OCC1=CC=CC=C1)C | C23H28O4
